US04968680
To a mixture of 7-chloro-2,3-dihydro-l-(2-methyl-3-thienylcarbonyl)-4(lH)-quinolinone (17.5 g), obtained in example 5, and ethanol (250 ml) were added hydroxyl amine hydrochloride (8 g) and pyridine (8.8 g), and the mixture was heated under reflux for 1.5 hours. After cooling, the reaction mixture was poured into 1000 ml of water, and precipitated crystals were separated by filtration, washed, dried and recrystallized with ethanol to obtain 7-chloro-2,3-dihydro-1-(2-methyl-3-thienylcarbonyl)-4(lH)-quinolinone-4-oxime (yield 16 g) as white crystal.

reactant | 7-chloro-2,3-dihydro-l-(2-methyl-3-thienylcarbonyl)-4(lH)-quinolinone | 17.5 g | ClC1=CC=C2C(CCN(C2=C1)C(=O)C1=C(SC=C1)C)=O | C15H12ClNO2S
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | hydroxyl amine hydrochloride | 8 g | Cl.ON
reactant | pyridine | 8.8 g | N1=CC=CC=C1 | C5H5N
solvent | water | 1000 ml | O | H2O
product | 7-chloro-2,3-dihydro-1-(2-methyl-3-thienylcarbonyl)-4(lH)-quinolinone-4-oxime | yield 16 g | ClC1=CC=C2C(CCN(C2=C1)C(=O)C1=C(SC=C1)C)=NO | C15H13ClN2O2S
